US06306864B1
3-(2-Chloro-Phenyl)-6-fluoro-2-(2-pyridin-2-yl-ethyl)-3H-quinazolin-4-one hydrochloride
A solution of 1.00 gram (2.65 mmol) of 3-(2-Chloro-phenyl)-6-fluoro-2-(2-pyridin-2-yl-vinyl)-3H-quinazolin-4-one in about 100 mL of ethyl acetate was treated with 0.5 gram of 10% Pd/C and the resulting mixture was hydrogenated at about 2 cm of Hg for two hours at which time uptake of hydrogen had ceased. The catalyst was filtered off with the aid of supercel (filteraid) and the ethyl acetate was removed by evaporation. The residues were dissolved in diethyl ether and treated with excess of a solution of HCl gas in diethyl ether. The product precipitated immediately and was allowed to stir for 3 hours at which time it was separated by filtration and dried in a stream of dry nitrogen. The product was 1.15 g (100%) of 3-(2-chloro-phenyl)-6-fluoro-2-(2-pyridin-2-yl-ethyl)-3H-quinazolin-4-one hydrochloride, an amorphous white solid.

reactant | 3-(2-Chloro-phenyl)-6-fluoro-2-(2-pyridin-2-yl-vinyl)-3H-quinazolin-4-one | 2.65 mmol, 1.00 gram | ClC1=C(C=CC=C1)N1C(=NC2=CC=C(C=C2C1=O)F)C=CC1=NC=CC=C1 | C21H13ClFN3O
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | about 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 0.5 gram | [Pd] | Pd
product | 3-(2-Chloro-Phenyl)-6-fluoro-2-(2-pyridin-2-yl-ethyl)-3H-quinazolin-4-one hydrochloride | Cl.ClC1=C(C=CC=C1)N1C(=NC2=CC=C(C=C2C1=O)F)CCC1=NC=CC=C1 | InChI=1S/C21H15ClFN3O.ClH/c22-17-6-1-2-7-19(17)26-20(11-9-15-5-3-4-12-24-15)25-18-10-8-14(23)13-16(18)21(26)27;/h1-8,10,12-13H,9,11H2;1H
